US06312894B1
4-[(2-Phenyl)-1,3-dioxolan-4-yl]-1-butanol (17).
To a solution of 1,2,6-trihydroxyhexane (10.0 g, 74.6 mmol) and benzaldehyde dimethylacetal (15.0 g, 98.7 mmol) in dry DMF (10 mL) was added Amberlyst 15 (5.0 g). The mixture was stirred at 100° C. for 5 min, then cooled and filtered. The filtrate was concentrated and residue obtained was re-dissolved in ethyl acetate. After being washed with water and brine, the solution was dried over Na2SO4. The crude product obtained after evaporation of the solvent was chromatographed on silica eluting with ethyl acetate. Concentration of the proper fractions afforded 11.0 g (66%) of the title product (a mixture of diastereomers) as a colorless oil: 1H NMR (CDCl3, 300 MHz, ppm) 7.48 (m, 2H), 7.39 (m, 3H), 5.92 (s, 0.4H), 5.80 (s, 0.6H), 4.3-4.1 (m, 2H), 3.64 (m, 3H), 1.8-1.4 (m, 6H).

reactant | 1,2,6-trihydroxyhexane | 74.6 mmol, 10.0 g | OCC(CCCCO)O | C6H14O3
reactant | benzaldehyde dimethylacetal | 98.7 mmol, 15.0 g | COC(C1=CC=CC=C1)OC | C9H12O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(2-Phenyl)-1,3-dioxolan-4-yl]-1-butanol | 11.0 g, 66% | C1(=CC=CC=C1)C1OCC(O1)CCCCO | C13H18O3
